US07307073B2
(R)-7-Fluoro-2,3,11,11a-tetrahydro-1H,5H-pyrrolo[2,1-c][1,4]benzoxazepine-5-one
To a solution of 2,5-difluorobenzoic acid (1.0 g; 6.325 mmol) in dimethylformamide (5 ml) was added 1,1′-carbonyldiimidazole (1.07 g; 6.64 mmol) and the solution stirred at room temperature for 1 h, followed by the addition of (R)-(−)-2-pyrrolidinemethanol (0.655 ml; 6.64 mmol). The reaction. was stirred at room temperature overnight whereupon 60% sodium hydride in mineral oil (0.507 g; 12.7 mmol) was carefully added and the mixture was heated to 120° C. for 2 h. The reaction was cautiously diluted with water and extracted with ethyl acetate and the organic layer washed with water then dried (Na2SO4) and evaporated to give the crude product. Trituration with ether and filtration afforded the title compound (0.29 g). M.p.: 85-86° C.; EIMS: m/z=222.2[M+H]+

reactant | 2,5-difluorobenzoic acid | 6.325 mmol, 1.0 g | FC1=C(C(=O)O)C=C(C=C1)F | C7H4F2O2
reactant | 1,1′-carbonyldiimidazole | 6.64 mmol, 1.07 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (R)-(−)-2-pyrrolidinemethanol | 6.64 mmol, 0.655 ml | N1[C@H](CCC1)CO | C5H11NO
reactant | sodium hydride | [H-].[Na+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (R)-7-Fluoro-2,3,11,11a-tetrahydro-1H,5H-pyrrolo[2,1-c][1,4]benzoxazepine-5-one | 0.29 g | FC=1C=CC2=C(C(N3[C@@H](CO2)CCC3)=O)C1 | C12H12FNO2
